US08455507B2
Method B: 6-chloro-N-(3-methyl-1H-pyrazol-5-yl)-2-(methylsulfonyl)pyrimidin-4-amine
To a stirred solution of 6-chloro-N-(3-methyl-1H-pyrazol-5-yl)-2-(methylthio)pyrimidin-4-amine (8 g, 31.19 mmol) in MeOH (200 ml) cooled in an ice bath was added portionwise a slurry of oxone (44 g, 71.73 mmol) in water (100 ml) over 10 minutes. The reaction mixture was stirred at this temperature for a further 30 minutes before being allowed to warm up to room temperature for 2 hours. The solid, isolated by filtration, was stirred vigorously in a 1:1 mixture of water and saturated bicarbonate solution. The solid was then filtered and dried in a pistol under vacuo to afford the title compound as a yellow solid (7.17 g, 80% yield). 1H NMR (DMSO D6, 400 MHz) δ2.23 (3H, s), 3.32 (3H, s), 5.80-8.10 (2H, br m), 10.92 (1H, br s), 12.26 (1H, br s); MS (ES+) 288, (ES−) 286.

reactant | 6-chloro-N-(3-methyl-1H-pyrazol-5-yl)-2-(methylthio)pyrimidin-4-amine | 31.19 mmol, 8 g | ClC1=CC(=NC(=N1)SC)NC1=CC(=NN1)C | C9H10ClN5S
reactant | oxone | 71.73 mmol, 44 g | OOS(=O)[O-].[K+]
reactant | bicarbonate | C([O-])(O)=O
solvent | MeOH | 200 ml | CO | CH4O
solvent | water | 100 ml | O | H2O
product | 6-chloro-N-(3-methyl-1H-pyrazol-5-yl)-2-(methylsulfonyl)pyrimidin-4-amine | 7.17 g, 80% yield | ClC1=CC(=NC(=N1)S(=O)(=O)C)NC1=CC(=NN1)C | C9H10ClN5O2S
